US05064863
921 mg of 5-(3-aminopropyl)-2-thiophenecarboxamide and 0.68 ml of 2,3-epoxypropyl phenyl ether were heated to 90° in 15 ml of dimethylsulfoxide for 14 hours. The reaction mixture was poured into water and extracted with methylene chloride. The dried methylene chloride solutions were evaporated in vacuo and the residue was chromatographed on silica gel, whereby there were obtained 800 mg of 5-[3-[[(RS)-2-hydroxy-3-phenoxypropyl]amino]propyl]-2-thiophenecarboxamide, m.p. 129°-130°, ε276 =12130.

reactant | 5-(3-aminopropyl)-2-thiophenecarboxamide | 921 mg | NCCCC1=CC=C(S1)C(=O)N | C8H12N2OS
reactant | 2,3-epoxypropyl phenyl ether | 0.68 ml | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 5-[3-[[(RS)-2-hydroxy-3-phenoxypropyl]amino]propyl]-2-thiophenecarboxamide | 800 mg | OC(CNCCCC1=CC=C(S1)C(=O)N)COC1=CC=CC=C1 | C17H22N2O3S
